US05629332
A 0.3 g portion of 2-(2,4-difluorophenyl)-2-[1-methyl-2-(4-fluorophenyl)-ethenyl]-1-triazolyl-2-ethanol was dissolved in 20 ml of acetic acid and subjected to 4 hours of hydrogenation under normal pressure in the presence of 0.02 g 10% Pd-carbon. After completion of the reaction, acetic acid was removed by evaporation under a reduced pressure, and the thus obtained residue was poured into water, neutralized with sodium bicarbonate and then extracted with ethyl acetate. The resulting organic layer was washed with water and dried on anhydrous magnesium sulfate. After removing the solvent by evaporation under a reduced pressure, the resulting residue was purified by a silica gel column chromatography to obtain 0.15 g of 2-(2,4-difluorophenyl)-1-triazolyl-3-methyl-4-(4-fluorophenyl)-2-butanol with a yield of 48%.

reactant | 2-(2,4-difluorophenyl)-2-[1-methyl-2-(4-fluorophenyl)-ethenyl]-1-triazolyl-2-ethanol | FC1=C(C=CC(=C1)F)C(CC=1N=NNC1)(O)C(=CC1=CC=C(C=C1)F)C | C19H16F3N3O
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
catalyst | Pd carbon | 0.02 g | [Pd].[C]
product | 2-(2,4-difluorophenyl)-1-triazolyl-3-methyl-4-(4-fluorophenyl)-2-butanol | 0.15 g, yield of 48% | FC1=C(C=CC(=C1)F)C(CC=1N=NNC1)(C(CC1=CC=C(C=C1)F)C)O | C19H18F3N3O
